data/polar.json
{"reaction_name": "Conjugate addition to an iminium-activated alkene", "rsmi": "[C:2]([CH:12]1[N+:26](=[CH:6][CH:47]=[CH:13][c:33]2[cH:7][cH:28][cH:5][cH:29][cH:8]2)[CH:21]([CH2:48][c:39]2[cH:55][cH:15][cH:30][cH:16][cH:56]2)[C:32](=[O:9])[N:41]1[CH3:31])([CH3:34])([CH3:35])[CH3:36].[cH:1]1[cH:24][cH:42][c:50]([N:27]2[C:4](=[C:37]([c:3]3[cH:17][cH:51][cH:10][cH:52][cH:18]3)[O:11][CH3:53])[N:14]([c:59]3[cH:22][cH:45][cH:40][cH:46][cH:23]3)[N:54]=[C:44]2[c:38]2[cH:57][cH:19][cH:49][cH:20][cH:58]2)[cH:43][cH:25]1>>[cH:1]1[cH:24][cH:42][c:50](-[n:27]2[c:4]([C:37]([c:3]3[cH:17][cH:51][cH:10][cH:52][cH:18]3)([O:11][CH3:53])[CH:13]([c:33]3[cH:7][cH:28][cH:5][cH:29][cH:8]3)[CH:47]=[CH:6][N:26]3[CH:12]([C:2]([CH3:34])([CH3:35])[CH3:36])[N:41]([CH3:31])[C:32](=[O:9])[CH:21]3[CH2:48][c:39]3[cH:55][cH:15][cH:30][cH:16][cH:56]3)[n+:14](-[c:59]3[cH:22][cH:45][cH:40][cH:46][cH:23]3)[n:54][c:44]2-[c:38]2[cH:57][cH:19][cH:49][cH:20][cH:58]2)[cH:43][cH:25]1", "epd": [["LP-/Pi+", [14], [4, 14]], ["Pi-/Sigma+", [37, 4], [37, 13]], ["Pi-/Pi+", [13, 47], [47, 6]], ["Pi-/LP+", [6, 26], [26]]]}
{"reaction_name": "General nucleophilic addition to an iminium C=N+ center", "rsmi": "[c:2]12[c:5]([cH:16][cH:14][cH:28][cH:7]1)-[c:6]1[c:3]([cH:8][cH:29][cH:15][cH:17]1)[N+:26]2=[CH:4][CH3:18].[cH:1]1[cH:19][cH:30][c:11]([S:34](=[O:12])(=[O:13])[CH:21]=[C:32]2[CH:9]=[CH:24][C:33](=[N+:27]([O-:22])[O-:23])[CH:25]=[CH:10]2)[cH:31][cH:20]1>>[cH:1]1[cH:19][cH:30][c:11]([S:34](=[O:12])(=[O:13])[CH:21]([CH:4]([CH3:18])[n:26]2[c:2]3[c:5]([c:6]4[c:3]2[cH:8][cH:29][cH:15][cH:17]4)[cH:16][cH:14][cH:28][cH:7]3)[c:32]2[cH:9][cH:24][c:33]([N+:27](=[O:22])[O-:23])[cH:25][cH:10]2)[cH:31][cH:20]1", "epd": [["LP-/Pi+", [22], [27, 22]], ["Pi-/Pi+", [33, 27], [25, 33]], ["Pi-/Pi+", [10, 25], [32, 10]], ["Pi-/Sigma+", [21, 32], [21, 4]], ["Pi-/LP+", [4, 26], [26]]]}
{"reaction_name": "π-Nucleophile capture of a preformed localized carbocation", "rsmi": "[CH3:1][CH:6]([CH3:2])[N+:15]1=[N:24][N:12]([CH:3]([CH3:25])[CH3:26])[C:27](=[CH2:11])[C-:4]1[C:5]([CH3:28])([CH3:29])[CH3:30].[cH:7]1[c:13]([CH+:33][c:14]2[cH:8][c:18]([F:22])[cH:32][c:19]([F:23])[cH:9]2)[cH:10][c:16]([F:20])[cH:31][c:17]1[F:21]>>[CH3:1][CH:6]([CH3:2])[n+:15]1[c:4]([C:5]([CH3:28])([CH3:29])[CH3:30])[c:27]([CH2:11][CH:33]([c:13]2[cH:7][c:17]([F:21])[cH:31][c:16]([F:20])[cH:10]2)[c:14]2[cH:8][c:18]([F:22])[cH:32][c:19]([F:23])[cH:9]2)[n:12]([CH:3]([CH3:25])[CH3:26])[n:24]1", "epd": [["LP-/Pi+", [4], [27, 4]], ["Pi-/Sigma+", [11, 27], [11, 33]]]}
{"reaction_name": "Iminium cyclization", "rsmi": "[CH:1](=[N+:2]([CH3:5])[CH3:6])[CH2:3][CH2:4][CH:8]=[CH2:7]>>[CH:1]1([N:2]([CH3:5])[CH3:6])[CH2:3][CH2:4][CH:8]([CH2+:7])1", "epd": [["Pi-/Sigma+", [7, 8], [1, 8]], ["Pi-/LP+", [1, 2], [2]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[N+:1]([c:14]1[cH:5][n:13][c:21]2[c:28]([n+:8]([O-:7])[o:15][n:37]2)[cH:29]1)(=[O:31])[O-:36].[N:2]1([c:25]2[cH:32][cH:3][n:38][cH:4][cH:33]2)[CH2:20][CH2:35][CH2:6][CH:22]1[C:30]([c:26]1[cH:9][cH:16][cH:23][cH:17][cH:10]1)([c:27]1[cH:11][cH:18][cH:24][cH:19][cH:12]1)[F:34]>>[N+:1](=[C:14]1[CH:5]=[N:13][c:21]2[c:28]([n+:8]([O-:7])[o:15][n:37]2)[CH:29]1[n:38]1[cH:3][cH:32][c:25](=[N+:2]2[CH2:20][CH2:35][CH2:6][CH:22]2[C:30]([c:26]2[cH:9][cH:16][cH:23][cH:17][cH:10]2)([c:27]2[cH:11][cH:18][cH:24][cH:19][cH:12]2)[F:34])[cH:33][cH:4]1)([O-:31])[O-:36]", "epd": [["LP-/Pi+", [2], [2, 25]], ["Pi-/Pi+", [25, 33], [4, 33]], ["Pi-/Sigma+", [4, 38], [29, 38]], ["Pi-/Pi+", [14, 29], [1, 14]], ["Pi-/LP+", [1, 31], [31]]]}
{"reaction_name": "Nucleophilic addition to an oxocarbenium C=O+ center", "rsmi": "[cH:1]1[cH:16][c:21]([CH:14]=[O+:6][CH3:24])[cH:17][cH:2][c:25]1[CH3:20].[cH:3]1[c:13]([N:11]([CH3:18])[CH3:19])[cH:4][cH:23][c:12]([CH:5]=[C:15]2[CH:7]=[CH:9][CH:10]=[CH:8]2)[cH:22]1>>[cH:1]1[cH:16][c:21]([CH:14]([O:6][CH3:24])[CH:7]2[CH:9]=[CH:10][CH:8]=[C:15]2[CH:5]=[C:12]2[CH:22]=[CH:3][C:13](=[N+:11]([CH3:18])[CH3:19])[CH:4]=[CH:23]2)[cH:17][cH:2][c:25]1[CH3:20]", "epd": [["LP-/Pi+", [11], [13, 11]], ["Pi-/Pi+", [3, 13], [22, 3]], ["Pi-/Pi+", [12, 22], [5, 12]], ["Pi-/Pi+", [15, 5], [8, 15]], ["Pi-/Pi+", [10, 8], [9, 10]], ["Pi-/Sigma+", [7, 9], [7, 14]], ["Pi-/LP+", [14, 6], [6]]]}
